US07429565B2
2-{[4-(4-Hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-2-methyl-but-2-enyloxymethyl]-phenoxy-phosphinoyloxy}-propionic acid ethyl ester
To a solution of [4-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-2-methyl-but-2-enyloxymethyl]-phosphonic acid monophenyl ester (18.5 mg, 0.040 mmol) and ethyl (S)-(−)-lactate (47 μL, 0.400 mmol) in pyridine (0.5 mL) was added PyBOP (32 mg, 0.060 mmol). The solution was stirred at room temperature for 1 hour, when an additional portion of PyBOP (21 mg, 0.040 mmol) was added. The solution was stirred for another hour and concentrated. The residue was purified by HPLC to provide 7.5 mg of the desired product as a clear oil. 1H NMR (300 MHz, CD3OD) δ 1.22 and 1.25 (t, 3H, J=7 Hz), 1.42 and 1.50 (d, 3H, J=7 Hz), 1.82 and 1.83 (s, 3H), 2.16 (s, 3H), 3.47 (d, 2H, J=7 Hz), 3.78 (s, 3H), 3.89 (d, 1H, J=8 Hz), 3.93-4.02 (m, 3H), 4.10-4.22 (m, 2H), 4.94-5.08 (m, 1H), 5.25 (s, 2H), 5.50-5.60 (m, 1H), 7.15-7.27 (m, 3H), 7.33-7.41 (m, 2H) ppm; 31P (121.4 MHz, CD3OD) δ 18.9, 20.3 ppm (diastereomers at phosphorus); MS (m/z) 549.2 [M+H]+, 571.3 [M+Na]+.

reactant | [4-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-2-methyl-but-2-enyloxymethyl]-phosphonic acid monophenyl ester | 0.040 mmol, 18.5 mg | C1(=CC=CC=C1)OP(O)(=O)COCC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)O)C | C22H25O8P
reactant | ethyl (S)-(−)-lactate | 0.400 mmol, 47 μL | C([C@@H](O)C)(=O)OCC | C5H10O3
reactant | PyBOP | 0.060 mmol, 32 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | PyBOP | 0.040 mmol, 21 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
product | 2-{[4-(4-Hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-2-methyl-but-2-enyloxymethyl]-phenoxy-phosphinoyloxy}-propionic acid ethyl ester | 7.5 mg | C(C)OC(C(C)OP(=O)(OC1=CC=CC=C1)COCC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)O)C)=O | C27H33O10P
